US04166904
(Z)-(2S, 5R)-2-(m-Chlorobenzoyloxy)-3-(2-hydroxyethylidene)-4-oxa-1-azabicyclo[3.2.0]heptan-7-one
Clavulanic acid (containing ca 0.5 meq. ethyl acetate; 410 mg., 1.7 mmole) was dissolved in dry 1,2-dimethoxyethane/methylene chloride (1:1, 10 ml.). The solution was stirred and ice-cooled with exclusion of moisture while m-chloroperbenzoic acid (380 mg.) and dicyclohexylcarbodiimide (400 mg.) were added. The mixture was stirred with exclusion of moisture for 3 hours at 0° and then for 15 hours at room temperature. The mixture was diluted with ethyl acetate (50 ml.) and was filtered. The filtrate was washed with saturated sodium bicarbonate solution and then with saturated brine. The solution was dried (magnesium sulphate and the solvent was evaporated under reduced pressure to yield a yellow gum. The gum was chromatographed on silica gel (25 g.) using ethyl acetate/petroleum ether (b.p. 60°-80°) to give the title compound as a colourless gum (60 mg., 11% yield). [α]D21 +88.8° (c=1.0 CHCl3). νmax (CHCl3): 3320 (hydroxyl OH), 1805 (β-lactam C=O), 1730 (ester C=O), 1700 (olefinic C=C)cm-1. δ (CDCl3): 2.28 (br.s, 1H, OH), 3.11 (d, J 16 Hz, 1H, C(6)H), 3.48 (dd, J 16, J' 2 Hz, 1H, C(6)H), 4.26 (d, J 7 Hz, 2H, CH2O), 5.03 (t, J 7 Hz, 1H, olefinic H), 5.77 (d, J 2 Hz, 1H, C(5)H), 6.70 (s, 1H, C(2)H), 7.25-7.60 (m, 2H, Ar-H), 7.80-8.00 (m, 2H, Ar-H).

reactant | Clavulanic acid | 1.7 mmole, 410 mg, ca 0.5 meq. | C1[C@@H]2N(C1=O)[C@H](/C(=C/CO)/O2)C(=O)O | C8H9NO5
reactant | m-chloroperbenzoic acid | 380 mg | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
reactant | dicyclohexylcarbodiimide | 400 mg | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
solvent | 1,2-dimethoxyethane methylene chloride | 10 ml | COCCOC.C(Cl)Cl
solvent | ethyl acetate | 50 ml | C(C)(=O)OCC | C4H8O2
product | (Z)-(2S, 5R)-2-(m-Chlorobenzoyloxy)-3-(2-hydroxyethylidene)-4-oxa-1-azabicyclo[3.2.0]heptan-7-one | 60 mg, 11% yield | ClC=1C=C(C(=O)O[C@@H]/2N3C(C[C@H]3O\C2=C/CO)=O)C=CC1 | C14H12ClNO5
